US06660753B2
A solution of 3-cyanobenzoic acid (1.0 g, 6.80 mmol) in tetrahydrofuran (10 mL) at 0° C. was treated with triethylamine (2.84 mL, 20.4 mmol) and ethyl chloroformate (0.78 mL, 8.16 mmol) and stirred at 0° C. for 1 h. The resulting white precipitate was removed by filtration and the filtrate cooled back to 0° C. Hydrazine monohydrate (1.00 mL, 20.4 mmol) was added and the mixture stirred at ambient temperature for 3.5 hours. The reaction mixture was then concentrated to dryness in vacuo and the residue was dissolved in dichloromethane (150 mL). The organic phase was sequentially washed with water (100 mL), 1N sodium hydroxide (100 mL), water (100 mL) and brine (100 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel chromatography using 3% methanol in dichloromethane afforded 0.32 g (30%) of 3-cyanobenzhydrazide.

reactant | 3-cyanobenzoic acid | 6.80 mmol, 1.0 g | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | triethylamine | 20.4 mmol, 2.84 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.16 mmol, 0.78 mL | ClC(=O)OCC | C3H5ClO2
reactant | Hydrazine monohydrate | 20.4 mmol, 1.00 mL | O.NN
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-cyanobenzhydrazide | 0.32 g, 30% | C(#N)C=1C=C(C(=O)NN)C=CC1 | C8H7N3O
